US04232014
5-Phenylacetylaminoethyl-6-methoxyindan (III)
Using the procedure of Example 1, but with potassium bicarbonate replacing triethylamine, phenylacetyl chloride was reacted with 5-aminoethyl-6-methoxyindan to produce the desired product. After recrystallization from ether it had a melting point of 135° C.

reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 5-aminoethyl-6-methoxyindan | NCCC=1C=C2CCCC2=CC1OC | C12H17NO
product | 5-Phenylacetylaminoethyl-6-methoxyindan | C1(=CC=CC=C1)CC(=O)NCCC=1C=C2CCCC2=CC1OC | C20H23NO2
